US09403798B2
tert-Butyl (R)-4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridine-1(2H)-carboxylate
To a 1,4-dioxane (500 μL)-water (100 μL) solution of tert-butyl (R)-4-(4-fluorophenyl)-5-(pivaloyloxy)-5,6-dihydropyridine-1(2H)-carboxylate (50.0 mg, 0.132 mmol) synthesized in Reference Synthesis Example 131, lithium hydroxide monohydrate (17.0 mg, 0.405 mmol) was added and the resultant mixture was stirred at 115° C. for 10 hours. After completion of the reaction, the reaction solution was analyzed with chiral column chromatography to measure optical purity.

reactant | tert-butyl (R)-4-(4-fluorophenyl)-5-(pivaloyloxy)-5,6-dihydropyridine-1(2H)-carboxylate | 0.132 mmol, 50.0 mg | FC1=CC=C(C=C1)C1=CCN(C[C@@H]1OC(C(C)(C)C)=O)C(=O)OC(C)(C)C | C21H28FNO4
reactant | lithium hydroxide monohydrate | 0.405 mmol, 17.0 mg | O.[OH-].[Li+]
product | tert-Butyl (R)-4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridine-1(2H)-carboxylate | FC1=CC=C(C=C1)C1=CCN(C[C@@H]1O)C(=O)OC(C)(C)C | C16H20FNO3
